US08097610B2
The mixture of 6-chloro[4-(3-chloromethylbenzyl)piperazine-1-yl]benzothiazole monohydrochloride (0.50 g; 1.27 mmol) and sodium cyanide (0.19 g; 3.82 mmol) in anhydrous N,N-dimethylformamide (5 ml) were stirred at 40° C. for 1.5 hours. After cooling, water and ethyl acetate were added to the reaction solution. The organic layer was separated and washed with brine, dried over anhydrous sodium sulphate, and evaporated under reduced pressure and the percipitate was washed with diisopropyl ether to give {3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl}acetonitrile as pale blackish brown crystal (0.35 g; 72%).

reactant | 6-chloro[4-(3-chloromethylbenzyl)piperazine-1-yl]benzothiazole monohydrochloride | 1.27 mmol, 0.50 g | Cl.ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC2=CC(=CC=C2)CCl)C=C1
reactant | sodium cyanide | 3.82 mmol, 0.19 g | [C-]#N.[Na+]
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | {3-[[4-(6-chlorobenzothiazole-2-yl)piperazine-1-yl]methyl]phenyl}acetonitrile | ClC1=CC2=C(N=C(S2)N2CCN(CC2)CC=2C=C(C=CC2)CC#N)C=C1 | C20H19ClN4S
